US06562828B1
1-(Pyridin-4-yl)-4-(2-trifluoroacetyl-1,2,3,4-tetrahydroisoquinolin-7-ylsulfonylaminomethyl)piperidine-4-carboxylic Acid Ethyl Ester
To 4-aminomethyl-1-(pyridin-4-yl)piperidine-4-carboxylic acid ethyl ester dihydrobromide (423 mg) were added pyridine (2 ml) and 7-chlorosulfonyl-2-trifluoroacetyl-1,2,3,4-tetrahydroisoquinoline (273 mg), and the mixture was stirred at room temperature for 2 hours. After completion of the reaction, the solvent was evaporated and water was added. The mixture was extracted with chloroform and the organic layer was dried over anhydrous sodium sulfate. The solvent was evaporated and the obtained residue was purified by silica gel column chromatography (chloroform:methanol=4:1) and dried under reduced pressure to give the title compound (222 mg).

reactant | 4-aminomethyl-1-(pyridin-4-yl)piperidine-4-carboxylic acid ethyl ester dihydrobromide | 423 mg | Br.Br.C(C)OC(=O)C1(CCN(CC1)C1=CC=NC=C1)CN
reactant | 7-chlorosulfonyl-2-trifluoroacetyl-1,2,3,4-tetrahydroisoquinoline | 273 mg | ClS(=O)(=O)C1=CC=C2CCN(CC2=C1)C(C(F)(F)F)=O | C11H9ClF3NO3S
solvent | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
product | 1-(Pyridin-4-yl)-4-(2-trifluoroacetyl-1,2,3,4-tetrahydroisoquinolin-7-ylsulfonylaminomethyl)piperidine-4-carboxylic Acid Ethyl Ester | 222 mg | C(C)OC(=O)C1(CCN(CC1)C1=CC=NC=C1)CNS(=O)(=O)C1=CC=C2CCN(CC2=C1)C(C(F)(F)F)=O | C25H29F3N4O5S
